US04033977
In the same manner but replacing 2-phenyl-4-(β-hydroxyethyl)thiazole with an equivalent amount of 2-(4-chlorophenyl)-4-(β-hydroxyethyl)thiazole the intermediate ester, ethyl 6,7-dihydro-4-ethyl-2-(4chlorophenyl)-4H-pyrano[4,3-d]thiazole-4-acetate (IV, R1 = Cl, R2 = CH2CH3, A= COOCH2CH3 and n= 1is obtained. Alkaline hydrolysis of the latter ester gives 6,7-dihydro-4-ethyl-2-(4-chlorophenyl)-4H-pyrano[4,3-d]thiazole-4-acetic acid (I; R1 = Cl, R2 = CH2CH3, R3 = COOH and n= 1), mp 190°-191° C., after crystallization from methanol. The ether extract obtained from the alkaline aqueous solution is purified to give the by-products 6,7-dihydro-4-ethyl-4-methyl-2-(4-chlorophenyl)-4H-pyrano[4,3-d]thiazole hydrochloride, mp 153°-154° C., after trituration with ether containing hydrogen chloride.

reactant | 2-phenyl-4-(β-hydroxyethyl)thiazole | C1(=CC=CC=C1)C=1SC=C(N1)CCO | C11H11NOS
reactant | 2-(4-chlorophenyl)-4-(β-hydroxyethyl)thiazole | ClC1=CC=C(C=C1)C=1SC=C(N1)CCO | C11H10ClNOS
reactant | ethyl 6,7-dihydro-4-ethyl-2-(4chlorophenyl)-4H-pyrano[4,3-d]thiazole-4-acetate | C(C)C1(OCCC=2N=C(SC21)C2=CC=C(C=C2)Cl)CC(=O)OCC | C18H20ClNO3S
product | 6,7-dihydro-4-ethyl-2-(4-chlorophenyl)-4H-pyrano[4,3-d]thiazole-4-acetic acid | C(C)C1(OCCC=2N=C(SC21)C2=CC=C(C=C2)Cl)CC(=O)O | C16H16ClNO3S
